datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=S)[N-:10]C(=O)c1ccccc1.Clc1ccc([NH2+:21][H:20])c(Cl)c1>>CCOC(=S)[N:10](C(=O)c1ccccc1)[H:20].Clc1ccc([NH2:21])c(Cl)c1 10=20;20,21=21",
"CCC[NH:10]CCN.CCOc1ccc(C(=O)[N:21](C(=S)N(CC)CC)[H:20])cc1>>CCC[NH+:10](CCN)[H:20].CCOc1ccc(C(=O)[N-:21]C(=S)N(CC)CC)cc1 10=20;20,21=21",
"Nc1cc[nH][n+:21]1[H:20].Nc1nc2[nH]cnc2c([O-:10])[nH+]1>>Nc1cc[nH][n:21]1.Nc1nc2[nH]cnc2c([O:10][H:20])[nH+]1 10=20;20,21=21",
"CCCCC[NH:10]CCCCC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCCCC[NH+:10](CCCCC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"Cc1nc2nccnc2c[n:10]1.O=[N+]([O-])c1ccc([S:21][H:20])cc1>>Cc1nc2nccnc2c[n+:10]1[H:20].O=[N+]([O-])c1ccc([S-:21])cc1 10=20;20,21=21",
"CC[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C=C2)[H:20])=C1>>CC[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C=C2)=C1 10=20;20,21=21",
"CC1=C/C(=[O+:21]/[H:20])N(c2ccccc2)N1C.C[NH:10]c1ccc(O)cc1>>CC1=CC(=[O:21])N(c2ccccc2)N1C.C[NH+:10](c1ccc(O)cc1)[H:20] 10=20;20,21=21",
"CC(C)[NH+]1CCC(N[NH:10]C(C)C)CC1.N/C(C([NH3+])Cc1ccccc1)=[S+:21]/[H:20]>>CC(C)[NH+]1CCC(N[NH+:10](C(C)C)[H:20])CC1.NC(C([NH3+])Cc1ccccc1)=[S:21] 10=20;20,21=21",
"Cc1cccc(C(C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc(C(C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CO[C@H]1C[C@@H]1C(=O)[O:21][H:20].Cc1ccc(C[NH2:10])cc1>>CO[C@H]1C[C@@H]1C(=O)[O-:21].Cc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCCCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCCCCCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(Cc1ccc(O)cc1)[NH2:10].CSc1ccc([O:21][H:20])cc1>>CC(Cc1ccc(O)cc1)[NH2+:10][H:20].CSc1ccc([O-:21])cc1 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"Cc1cc(Cn2[nH+]c(C)cc2C)[n:10][nH]1.Nc1ccc[n+:21]([H:20])c1>>Cc1cc(Cn2[nH+]c(C)cc2C)[n+:10]([H:20])[nH]1.Nc1ccc[n:21]c1 10=20;20,21=21",
"CN(C)c1nc(/N=N/[O:21][H:20])nn1C.C[C@]12C[C@H](C(=O)[O-:10])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2>>CN(C)c1nc(/N=N/[O-:21])nn1C.C[C@]12C[C@H](C(=O)[O:10][H:20])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c(C)cc1N.[NH3+]CCC[NH:10]CCC[NH3+]>>Cc1c[n:21]c(C)cc1N.[NH3+]CCC[NH+:10](CCC[NH3+])[H:20] 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C(=O)[O:21][H:20])C1.Cc1ccc2c(c1)sc(c1ccc([N:10](C)C)cc1)[n+]2C>>C[C@@H]1CCC[C@H](C(=O)[O-:21])C1.Cc1ccc2c(c1)sc(c1ccc([N+:10](C)(C)[H:20])cc1)[n+]2C 10=20;20,21=21",
"C1C[N:10]2CCC1CC2.c1cc([O:21][H:20])c2[nH]ncc2c1>>C1C[N+:10]2([H:20])CCC1CC2.c1cc([O-:21])c2[nH]ncc2c1 10=20;20,21=21",
"CC(O)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(O)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CN(C1=[N+:21]([H:20])CCO1)c1ccccc1.O=C(c1ccccc1)[O-:10]>>CN(C1=[N:21]CCO1)c1ccccc1.O=C(c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.c1ccc2c(c1)CC[NH:10]C2>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.c1ccc2c(c1)CC[NH+:10]([H:20])C2 10=20;20,21=21",
"CC(C)=C=CC(C)(C)C(=O)[O-:10].CN(C)C=[N+:21](c1cccc([N+](=O)[O-])c1)[H:20]>>CC(C)=C=CC(C)(C)C(=O)[O:10][H:20].CN(C)C=[N:21]c1cccc([N+](=O)[O-])c1 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1cc(CCCC[NH2:10])ccn1>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1cc(CCCC[NH2+:10][H:20])ccn1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C2CCC[NH:10]2)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"O=C(c1ccccc1)c1cccc([O:21][H:20])c1.O=C1CC(=O)[N-:10]C(=S)N1>>O=C(c1ccccc1)c1cccc([O-:21])c1.O=C1CC(=O)[N:10]([H:20])C(=S)N1 10=20;20,21=21",
"Cc1cc(C)[n+:21]([H:20])nc1C.Cc1cc(C)c([O-:10])c(C)c1>>Cc1cc(C)[n:21]nc1C.Cc1cc(C)c([O:10][H:20])c(C)c1 10=20;20,21=21",
"Cc1cccc(C(=O)[O-])c1[O:21][H:20].OCCN1CC[NH:10]CC1>>Cc1cccc(C(=O)[O-])c1[O-:21].OCCN1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"CC(C)(C)c1ccc[n+:21]([H:20])c1.C[N:10]1C2=CCCC1CCC2>>CC(C)(C)c1ccc[n:21]c1.C[N+:10]1([H:20])C2=CCCC1CCC2 10=20;20,21=21",
"C[Si](C)(C)CCC(=O)[O:21][H:20].Nc1nc2ncncc2[n-:10]1>>C[Si](C)(C)CCC(=O)[O-:21].Nc1nc2ncncc2[n:10]1[H:20] 10=20;20,21=21",
"C[NH:10]CCCC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CCCC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1c(Br)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1.O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O:21][H:20]>>COc1c(Br)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20].O=[N+]([O-])c1cc(-c2ccccc2)ccc1[O-:21] 10=20;20,21=21",
"CCCCCOc1ccc(C(=O)[O-:10])cc1.CCCC[P+:21](CCCC)(CCCC)[H:20]>>CCCCCOc1ccc(C(=O)[O:10][H:20])cc1.CCCC[P:21](CCCC)CCCC 10=20;20,21=21",
"N#CC(C#N)=C(C#N)[N-:10]C1CCCCC1.O=C1Nc2cncnc2NC1=C1Nc2nc[n+:21]([H:20])cc2NC1=O>>N#CC(C#N)=C(C#N)[N:10](C1CCCCC1)[H:20].O=C1Nc2cncnc2NC1=C1Nc2nc[n:21]cc2NC1=O 10=20;20,21=21",
